* Common-drain (source follower) amplifier subcircuit (ngspice)

.subckt cd_stage in out vdd gnd params: W=4u L=0.09u RIN=100k RLOAD=1k

  N1 vdd g out gnd NMOS W={W} L={L}
  Rin in g {RIN}
  Rload out gnd {RLOAD}
.ends
