* Common-gate amplifier subcircuit (ngspice)
* Ports: in out vdd gnd
* Parameters: W, L (MOS geometry), RLOAD (drain load)
*
* Note: Gate is tied to ground in this simple bias example. DC operating point is set by the input source.

.subckt cg_stage in out vdd gnd params: W=4u L=0.09u RLOAD=1k
  N1 out gnd in gnd NMOS W={W} L={L}
  Rload vdd out {RLOAD}
.ends
