* Common-source gate amplifier subcircuit (ngspice)
* Ports: in out vdd gnd
* Parameters: W, L (MOS geometry), RIN, RLOAD (resistors)

.subckt cs_stage in out vdd gnd params: W=4u L=0.09u RIN=100k RLOAD=1k
  Rin in g {RIN}
  Rload vdd out {RLOAD}
  N1 out g gnd gnd NMOS W={W} L={L}
.ends
