
.include not.sub
.include nand2.sub

* =============================================================================

.subckt AND2 in1 in2 out vdd gnd params: L=0.09u WN=10u WP=20u
  XNAND in1 in2 out1 vdd gnd NAND2
  XNOT out1 out vdd gnc NOT
.ends


