* 5-stage inverter ring oscillator subcircuit (parameterized)
* Ports: n1 vdd gnd
.subckt INV_RING n1 vdd gnd params: L=0.09u WN=10u WP=20u RSH=1Meg
  * Ring of 5 inverters
  X1 n1 n5 vdd gnd NOT L={L} WN={WN} WP={WP}
  X2 n2 n1 vdd gnd NOT L={L} WN={WN} WP={WP}
  X3 n3 n2 vdd gnd NOT L={L} WN={WN} WP={WP}
  X4 n4 n3 vdd gnd NOT L={L} WN={WN} WP={WP}
  X5 n5 n4 vdd gnd NOT L={L} WN={WN} WP={WP}

  * Weak shunt resistors for DC operating point stabilization
  Rsh1 n1 gnd {RSH}
  Rsh2 n2 gnd {RSH}
  Rsh3 n3 gnd {RSH}
  Rsh4 n4 gnd {RSH}
  Rsh5 n5 gnd {RSH}
.ends
