* 2-input NAND gate subcircuit (parameterized)

.subckt NAND2 in1 in2 out vdd gnd params: L=0.09u WN=10u WP=20u
    NP1 vdd in1 out vdd pmos w={WP} l={L}
    NP2 vdd in2 out vdd pmos w={WP} l={L}
    NN1 t1 in1 out gnd nmos w={WN} l={L}
    NN2 gnd in2 t1 gnd nmos w={WN} l={L}
.ends
