* Not-gate subcircuit
.subckt NOT in out vdd gnd params: L=0.09u WN=10u WP=20u
    N1 out in vdd vdd pmos w={WP} l={L}
    N2 out in gnd gnd nmos w={WN} l={L}
.ends








