* OR gate
.include not.sub
.include nor2.sub

.subckt OR2 in1 in2 out vdd gnd params: L=0.09u WN=10u WP=20u
  XNOR in1 in2 nor_out vdd gnd NOR2 L={L} WN={WN} WP={WP}
  XNOT2 nor_out out vdd gnd NOT L={L} WN={WN} WP={WP}
.ends


